US07109216B2
To a magnetically stirred suspension of 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-5-methylsulfonyl-1H-imidazole-4-carboxylic acid (2.23 g, 5.01 mmol) in anhydrous CH3CN (50 ml) was successively added N,N-diisopropylethylamine (Hunig's base) (1.90 ml, 11.0 mmol), O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HBTU) (2.27 g, 5.99 mmol) and 1-aminopiperidine (0.65 ml, 6.03 mmol). After stirring for 16 h, the resulting mixture was concentrated in vacuo. The residue was dissolved in EtOAc, successively washed with aqueous NaHCO3 solution, water and brine, dried over Na2SO4, filtered and concentrated to give a crude solid. This solid was further purified by flash chromatography (silicagel, EtOAc) and triturated with methyl-tert-butyl ether to give 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-5-methylsulfonyl-N-(piperidin-1-yl)-1H-imidazole-4-carboxamide in 84% yield, mp 181–185° C. (dec); 1H-NMR (600 MHz, DMSO-d6) δ 1.35–1.41 (m, 2H), 1.61–1.66 (m, 4H), 2.80–2.84 (m, 4H), 3.52 (s, 3H), 7.38 (d, J=8 Hz, 2H), 7.42 (dd, J=8 and 2 Hz, 1H), 7.46 (d, J=8 Hz, 2H), 7.57 (d, J=2 Hz, 1H), 7.62 (d, J=8 Hz, 1H), 9.40 (s, 1H); HRMS (C22H22Cl3N4O3S) [M+H]+: found m/z 527.0469, calcd 527.0478.

reactant | 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-5-methylsulfonyl-1H-imidazole-4-carboxylic acid | 5.01 mmol, 2.23 g | ClC1=CC=C(C=C1)N1C(=NC(=C1S(=O)(=O)C)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C17H11Cl3N2O4S
reactant | N,N-diisopropylethylamine | 11.0 mmol, 1.90 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 5.99 mmol, 2.27 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-aminopiperidine | 6.03 mmol, 0.65 ml | NN1CCCCC1 | C5H12N2
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-5-methylsulfonyl-N-(piperidin-1-yl)-1H-imidazole-4-carboxamide | 84% yield | ClC1=CC=C(C=C1)N1C(=NC(=C1S(=O)(=O)C)C(=O)NN1CCCCC1)C1=C(C=C(C=C1)Cl)Cl | C22H21Cl3N4O3S
